US06350749B1
In dimethylformamide (10 ml) was suspended 60% sodium hydride (0.44 g, washed with hexane thrice), and to the suspension were added 5-(4-methylphenyl)cyclohexane-1,3-dione (2.0 g) and chloroacetone (0.92 g). The mixture was stirred at room temperature for 1 hour and then at 150° C. for 13 hours. Under reduced pressure, the solvent was evaporated, and the residue was dissolved in ethyl acetate, water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (EtOAc/hexane), and the resulting crystals were recrystallized from hexane to give colorless crystals of 3-methyl-6-(4-methylphenyl)-4,5,6,7-tetrahydrobenzofuran-4-one (0.51 g).

reactant | sodium hydride | 0.44 g | [H-].[Na+]
reactant | 5-(4-methylphenyl)cyclohexane-1,3-dione | 2.0 g | CC1=CC=C(C=C1)C1CC(CC(C1)=O)=O | C13H14O2
reactant | chloroacetone | 0.92 g | ClCC(C)=O | C3H5ClO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-methyl-6-(4-methylphenyl)-4,5,6,7-tetrahydrobenzofuran-4-one | 0.51 g | CC1=COC2=C1C(CC(C2)C2=CC=C(C=C2)C)=O | C16H16O2
